US09278931B2
C) N-{4-[trans-2-(benzylamino)cyclopropyl]phenyl}-3-(piperidin-1-yl)benzamide
To a solution of N-{4-[trans-2-aminocyclopropyl]phenyl}-3-(piperidin-1-yl)benzamide dihydrochloride (64.2 mg) in methanol (2 mL) were added benzaldehyde (16 μL) and sodium hydrogen carbonate (19.8 mg). The reaction mixture was stirred at 70° C. for 1 hr, and ice-cooled to 0° C. and sodium borohydride (8.9 mg) was added. The mixture was stirred for 1 hr and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (51.0 mg).

reactant | N-{4-[trans-2-aminocyclopropyl]phenyl}-3-(piperidin-1-yl)benzamide dihydrochloride | 64.2 mg | Cl.Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)N1CCCCC1)=O
reactant | benzaldehyde | 16 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydrogen carbonate | 19.8 mg | C(O)([O-])=O.[Na+]
reactant | sodium borohydride | 8.9 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | O | H2O
product | N-{4-[trans-2-(benzylamino)cyclopropyl]phenyl}-3-(piperidin-1-yl)benzamide | 51.0 mg | C(C1=CC=CC=C1)N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)N1CCCCC1)=O | C28H31N3O
